US07495103B2
To a solution of 2,2-dimethyl-N-o-tolyl-propionamide (30.0 g, 159 mmol) in dry THF (100 mL) was added dropwise n-BuLi (2.5 M, in hexane, 190 mL) at 15° C. The mixture was stirred overnight at 15° C., cooled in an ice-water bath and treated with saturated NH4Cl solution. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated in vacuum. The residue was purified by column chromatography to give 2-tert-butyl-1H-indole (23.8 g, 88%).

reactant | 2,2-dimethyl-N-o-tolyl-propionamide | 159 mmol, 30.0 g | CC(C(=O)NC1=C(C=CC=C1)C)(C)C | C12H17NO
reactant | n-BuLi | 2.5 M, 190 mL | [Li]CCCC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-tert-butyl-1H-indole | 23.8 g, 88% | C(C)(C)(C)C=1NC2=CC=CC=C2C1 | C12H15N
